US05328911
2-n-butoxy-7-methyl-3[(2'-(1H-tetrazol-5-yl)biphenyl-4-yl)methyl]-3H-imidazo[4.5-b]pyridine
A mixture of 100 mg (1.3 mmol) of n-butanol, 400 mg (3.6 retool) of potassium tert.-butoxide and DMF was heated at 80 degree C for 5 minutes. 300 mg (0.65 mmol) of 2-ethyl-sulfonyl-7-methyl-3[(2'-(1H-tetrazol-5-yl)biphenyl-4-yl)methyl]-3H-imidazo[4.5-b]pyridine was added to the mixture. The resultant was heated for 2 hours. The reaction product mixture was mixed with water, neutralized with 2n HCl and extracted with dichloromethane. The dichloromethane phase was washed with a saturated saline and dried with anhydrous magnesium sulfate. The solvent was distilled out at a reduced pressure and the residue was treated with ether-hexane-dichloromethane or re-crystallization to obtained 140 mg of the intended compound.

reactant | n-butanol | 1.3 mmol, 100 mg | C(CCC)O | C4H10O
reactant | potassium tert.-butoxide | 400 mg | CC(C)([O-])C.[K+]
reactant | 2-ethyl-sulfonyl-7-methyl-3[(2'-(1H-tetrazol-5-yl)biphenyl-4-yl)methyl]-3H-imidazo[4.5-b]pyridine | 0.65 mmol, 300 mg | C(C)C1N=C2C(=NC(C=C2C)=S(=O)=O)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C23H21N7O2S
reactant | HCl | Cl | ClH
solvent | water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-n-butoxy-7-methyl-3[(2'-(1H-tetrazol-5-yl)biphenyl-4-yl)methyl]-3H-imidazo[4.5-b]pyridine | 140 mg | C(CCC)OC1=NC=2C(=NC=CC2C)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C25H25N7O
